US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(1-ethyl-propyl)-amine, Hydrochloride (Compound A18)
Was prepared according to Method A from 2,4-dichloroquinazoline, 3-aminopentane and 3,5-dimethylpyrazole. Mp. 96.4° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 3-aminopentane | NC(CC)CC | C5H13N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(1-ethyl-propyl)-amine, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC(CC)CC | InChI=1S/C18H23N5.ClH/c1-5-14(6-2)19-17-15-9-7-8-10-16(15)20-18(21-17)23-13(4)11-12(3)22-23;/h7-11,14H,5-6H2,1-4H3,(H,19,20,21);1H
